US04173705
A process for preparing 2-(2-furoyl)-1,4-dimethylpyridinium iodide comprising the steps of reacting 2-cyano-4-methylpyridine under a nitrogen atmosphere with an ethereal solution of freshly prepared 2-furyl-lithium, hydrolyzing the reaction mixture under acid conditions to form 2-(2-furoyl)-4-methylpyridine, and heating the 2-(2-furoyl)-4--methylpyridine in the presence of methyl iodide to form 2-(2-furoyl)-1,4-dimethylpyridinium iodide.

reactant | 2-(2-furoyl)-1,4-dimethylpyridinium iodide | [I-].O1C(=CC=C1)C(=O)C1=[N+](C=CC(=C1)C)C
reactant | 2-cyano-4-methylpyridine | C(#N)C1=NC=CC(=C1)C | C7H6N2
reactant | 2-furyl-lithium | O1C(=CC=C1)[Li]
product | 2-(2-furoyl)-4-methylpyridine | O1C(=CC=C1)C(=O)C1=NC=CC(=C1)C | C11H9NO2
